US07776875B2
Preparation of Intermediate of 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-ethyl-butyric acid methyl ester
Lithium bis(trimethylsilyl)amide (60 mL, 60 mmol, 1 M in THF) was slowly added to a solution of 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-butyric acid methyl ester (15 g, 50 mmol) in anhydrous THF (150 mL) at −78° C. After the mixture was stirred for 15 min, iodoethane (9.3 g, 60 mmol) was added. The mixture was allowed to warm to room temperature and stirred for 2 h. Then the mixture was diluted with ethyl acetate, washed with a saturated aqueous solution of NH4Cl, dried over anhydrous Na2SO4 and concentrated to give the crude product as a oil (16 g).

reactant | Lithium bis(trimethylsilyl)amide | 60 mmol, 1 M, 60 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-butyric acid methyl ester | 50 mmol, 15 g | COC(C(CC)OC1=C(C=C(C=C1)Cl)C1OCCO1)=O | C14H17ClO5
reactant | iodoethane | 60 mmol, 9.3 g | ICC | C2H5I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-chloro-2-[1,3]dioxolan-2-yl-phenoxy)-2-ethyl-butyric acid methyl ester | 16 g | COC(C(CC)(CC)OC1=C(C=C(C=C1)Cl)C1OCCO1)=O | C16H21ClO5
